US07482341B2
A solution of 6-propyl-pyridin-2-ylamine (0.2 g) and piperidine-1-sulfonyl chloride (0.296 g, Bull. Soc. Chim. Fr.; 1936, 2143) in pyridine (7 mL) was heated to reflux for 15 h. After concentration of the reaction mixture in vacuo the residue was taken up in EtOAc, which was then washed with 1N aqueous HCl, saturated brine, dried over sodium sulphate and concentrated in vacuo. The residue was applied to a silica gel column with EtOAc/toluene (9:1 to 1:1) as eluent. Combination of the purified fractions and concentration in vacuo gave the desired piperidine-1-sulfonic acid (6-propyl-pyridin-2-yl)-amide (0.133 g) as a colorless amorphous solid. MS (ESI−): 282.0 ([M−H]−).

reactant | 6-propyl-pyridin-2-ylamine | 0.2 g | C(CC)C1=CC=CC(=N1)N | C8H12N2
reactant | piperidine-1-sulfonyl chloride | 0.296 g | N1(CCCCC1)S(=O)(=O)Cl | C5H10ClNO2S
solvent | pyridine | 7 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | piperidine-1-sulfonic acid (6-propyl-pyridin-2-yl)-amide | 0.133 g | C(CC)C1=CC=CC(=N1)NS(=O)(=O)N1CCCCC1 | C13H21N3O2S
